US04725608
To a stirred solution of N-amino-4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride (1.05 g) in a mixture of dioxane (10 ml) and water (5 ml) was added 1N sodium hydroxide solution (5 ml) under ice-bath cooling, and then a solution of 4-fluorophenyl isothiocyanate (1.15 g) in dioxane (5 ml) was added thereto. The mixture was stirred for 5 hours under ice-bath cooling. The reaction mixture was evaporated in vacuo and the residue was extracted several times with ethyl acetate. The combined extract was washed with water, dried over magnesium sulfate and evaporated in vacuo to give a crude product, which was recrystallized from ethyl acetate to give N-[[(4-fluorophenyl)thiocarbamoyl]amino]-4-phenyl-1,2,3,6-tetrahydropyridine (1.05 g).

reactant | N-amino-4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 1.05 g | Cl.NN1CCC(=CC1)C1=CC=CC=C1
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | 4-fluorophenyl isothiocyanate | 1.15 g | FC1=CC=C(C=C1)N=C=S | C7H4FNS
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-[[(4-fluorophenyl)thiocarbamoyl]amino]-4-phenyl-1,2,3,6-tetrahydropyridine | 1.05 g | FC1=CC=C(C=C1)NC(=S)NN1CCC(=CC1)C1=CC=CC=C1 | C18H18FN3S
